2170-04-08 01:10:00 Physician Resident Progress Note
Event Note:
   Central Line Removal
 Left IJ
   - After earlier placement of Left IJ w/ ultrasound guidance CXR
   demonstrated line to be coiled upwards into patients R-IJ.  Attempted
   to reposition the line, but again had significant difficulty advancing
   the guidewire beyond 25 -30 cm (as with placement of the line).
   Repositioned the catheter by withdrawing 5-6 cm and was again
   unsuccessful.  Given the concern for thrombosis at site of previously
   placed PICC line limiting advancement of the guide wire did not want to
   further disturb line positioning.  As a result, newly placed IJ was
   removed and patient will need to go to IR in the morning for placement
   for central line under guidance w/ removal of previous PICC and culture
   of tip.

2170-04-08 07:46:00 Physician Attending Progress Note
Chief Complaint: bacteremia, RLL consolidation, tachycardia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
 PICC LINE - START [**2170-4-7**] 05:48 PM
 MULTI LUMEN - START [**2170-4-8**] 12:09 AM
 URINE CULTURE - At [**2170-4-8**] 12:36 AM
 MULTI LUMEN - STOP [**2170-4-8**] 12:37 AM
   Started empirically on broad spectrum antimicrobials
   L IJ placed with difficulty- CXR revealed it was curled and going into
   R IJ- line pulled w/plan to get IR guided CVL today
   Bld cxs came back w/GPC in chains and prs
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Caspofungin - [**2170-4-7**] 07:04 PM
   Bactrim (SMX/TMP) - [**2170-4-7**] 08:00 PM
   Vancomycin - [**2170-4-7**] 08:59 PM
   Ciprofloxacin - [**2170-4-7**] 10:00 PM
   Acyclovir - [**2170-4-8**] 06:08 AM
   Cefipime - [**2170-4-8**] 06:09 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2170-4-7**] 06:13 PM
   Lansoprazole (Prevacid) - [**2170-4-7**] 08:00 PM
   Other medications:
   Tacrolimus
   Cellcept
   Hydrocortisone 50mg IV q6hrs
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-4-8**] 07:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.9
C (98.5
   HR: 108 (99 - 138) bpm
   BP: 104/75(83) {73/33(49) - 110/79(86)} mmHg
   RR: 21 (19 - 34) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 27 Inch
             Total In:
                                                                  3,217 mL
                                                                  1,069 mL
   PO:
                                                                    200 mL
                                                                    100 mL
   TF:
   IVF:
                                                                  3,017 mL
                                                                    969 mL
   Blood products:
   Total out:
                                                                    550 mL
                                                                  1,290 mL
   Urine:
                                                                    450 mL
                                                                  1,290 mL
   NG:
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                  2,667 mL
                                                                   -221 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///21/
   Physical Examination
   Chronically ill appearing
   Awake, aaox3
   Nl s1s2, reg, tachycardic w/o appreciable m/r/g
   Diminished BS at bases b/l otherwise CTAB
   Abd NT/ND, +BS
   Ext warm, w/o edema
   Skin thickened, tight, dry
   Labs / Radiology
   9.8 g/dL
   320 K/uL
   108 mg/dL
   0.5 mg/dL
   21 mEq/L
   4.8 mEq/L
   14 mg/dL
   104 mEq/L
   133 mEq/L
   31.7 %
   13.4 K/uL
        [image002.jpg]
                             [**2170-4-7**]  06:36 PM
                             [**2170-4-7**]  09:05 PM
                             [**2170-4-8**]  01:15 AM
   WBC
   8.6
   13.6
   13.4
   Hct
   21.1
   31.2
   31.7
   Plt
   [**Telephone/Fax (3) 2636**]
   Cr
   0.3
   0.6
   0.5
   TropT
   0.06
   Glucose
   83
   105
   108
   Other labs: PT / PTT / INR:13.4/40.5/1.2, CK / CKMB /
   Troponin-T:237/4/0.06, ALT / AST:31/59, Alk Phos / T Bili:92/0.5,
   Differential-Neuts:86.0 %, Band:10.0 %, Lymph:0.0 %, Mono:0.0 %,
   Eos:0.0 %, Albumin:3.1 g/dL, LDH:672 IU/L, Ca++:7.8 mg/dL, Mg++:1.7
   mg/dL, PO4:3.1 mg/dL
   Micro:
   5/10
 [**12-30**] bld cxs w/GPC in chains and prs
   Assessment and Plan
   33 yo M w/diffuse large B cell lymphoma s/p allo-BMT c/b severe GVHD of
   skin/mucosa now a/w fever, tachycardia, and hypotension.
   1. Shock - presumed septic.  Sources- new RLL infiltrate and
   bacteremia- unclear whether 2 processes or related.  f/u cxs.   Check
   surveillance bld cxs.  Obtain induced sputum since pt not producing
   sputum on own.  Empiric vanc/cefepime/cipro for GPC in blood and also
   to cover nosocomial pna given multiple recent hospitalizations.  HR and
   BP improved w/IVF resuscitation; excellent uop.  Stress dose steroids
   given chronic prednisone (will resume home prednisone regimen once HDs
   significantly improved).  d/c PICC.
   2. Immunosuppression - cont FK506 and cellcept.  Increased steroids as
   above.  Daily FK506 levels.  t/b w/BMT re: pt
s Gleevec.
   3. Tachycardia - sinus, treating underlying infection/exacerbating
   factors (of note, b/l HR 110s).  Improving w/IVF.
   4. Hyponatremia
 hypovolemic, improving w/hydration.
   5. TnT leak - likely demand in setting of tachycardia and hypotension,
   no ischemic changes on EKG, peaked at 0.12 and trending down.
   6. Recent PE - hold home lovenox, resume heparin gtt once procedures
   done.
   7. Hypoxemia - likely [**12-30**] pna, abx as above.  Watch closely w/vol
   resuscitation.
   8. Access - d/c PICC line, place CVL.
   ICU Care
   Nutrition:
   Glycemic Control:  RISS
   Lines:
   PICC Line - [**2170-4-7**] 05:48 PM
   20 Gauge - [**2170-4-7**] 05:49 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent:
   Patient is critically ill
   Addendum
   Blood cultures now with Strep pneumo making primary PNA with bacteremia
   most likely. Doubt PICC is source of infection.
   Now that he is off pressors and hemodynamically stable not an urgent
   indication for CVL.
   Can try for additional PIVs- could do PPN through PIV for POICC holiday
 then resite PICC when 48 hrs neg cultures

2170-04-10 11:41:00 Physician Attending Progress Note
Chief Complaint strep pneumo bacteremia, resp distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   33 yo M w/diffuse large B cell lymphoma s/p allo-BMT c/b severe GVHD of
   skin/mucosa presented with fever, hypotension, tachycardia from strep
   pneumo pna and bacteremia
   24 Hour Events:
   transient tachy/hypoxic yesterday (sats 89% on  2L with ambulation to
   chair),
         responded to IVF and increase in sup O2 to 4 L
   changed antibx to nafcillin for strep pneumo sensitivities
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Caspofungin - [**2170-4-7**] 07:04 PM
   Bactrim (SMX/TMP) - [**2170-4-8**] 08:00 PM
   Ciprofloxacin - [**2170-4-8**] 10:15 PM
   Vancomycin - [**2170-4-9**] 08:00 AM
   Cefipime - [**2170-4-9**] 02:00 PM
   Nafcillin - [**2170-4-10**] 06:00 AM
   Acyclovir - [**2170-4-10**] 06:30 AM
   Infusions:
   Heparin Sodium - 1,150 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2170-4-9**] 08:35 PM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-4-10**] 11:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.1
C (97
   HR: 122 (92 - 138) bpm
   BP: 130/81(92) {115/68(80) - 137/90(98)} mmHg
   RR: 26 (19 - 32) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 68 Inch
             Total In:
                                                                  2,921 mL
                                                                  1,079 mL
   PO:
                                                                    880 mL
                                                                     60 mL
   TF:
   IVF:
                                                                  1,792 mL
                                                                    545 mL
   Blood products:
   Total out:
                                                                  2,475 mL
                                                                     15 mL
   Urine:
                                                                  2,475 mL
   NG:
   15 mL
   Stool:
   Drains:
   Balance:
                                                                    446 mL
                                                                  1,064 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///28/
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): X 4, Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   8.8 g/dL
   301 K/uL
   131 mg/dL
   0.4 mg/dL
   28 mEq/L
   4.0 mEq/L
   16 mg/dL
   105 mEq/L
   138 mEq/L
   28.9 %
   8.3 K/uL
        [image002.jpg]
                             [**2170-4-7**]  06:36 PM
                             [**2170-4-7**]  09:05 PM
                             [**2170-4-8**]  01:15 AM
                             [**2170-4-9**]  03:39 AM
                             [**2170-4-10**]  03:49 AM
   WBC
   8.6
   13.6
   13.4
   11.8
   8.3
   Hct
   21.1
   31.2
   31.7
   28.1
   28.9
   Plt
   [**Telephone/Fax (3) 2657**]83
   301
   Cr
   0.3
   0.6
   0.5
   0.4
   0.4
   TropT
   0.06
   Glucose
   83
   105
   108
   105
   131
   Other labs: PT / PTT / INR:12.1/75.9/1.0, CK / CKMB /
   Troponin-T:237/4/0.06, ALT / AST:24/34, Alk Phos / T Bili:79/0.3,
   Differential-Neuts:86.0 %, Band:10.0 %, Lymph:0.0 %, Mono:0.0 %,
   Eos:0.0 %, Albumin:2.7 g/dL, LDH:401 IU/L, Ca++:8.4 mg/dL, Mg++:1.8
   mg/dL, PO4:3.2 mg/dL
   Imaging: cxr-b/l layering effusions, RLL process, poor
   penetration/rotated
   Microbiology: pan [**Last Name (un) **] strep
   urine cx ngtd
   Assessment and Plan
   33 yo M w/diffuse large B cell lymphoma s/p allo-BMT c/b severe GVHD of
   skin/mucosa presented with fever, hypotension, tachycardia from strep
   pneumo pna and bacteremia
   # shock--strep pneumo bacteremia/pna
   pna source given ct chest findings, w/ very low suspicion for line
   infection
   HR and BP improved w/ IVF resuscitation
       -Check surveillance bld cxs  today
       - complete course 10 day course antibx
switched to nafcillin per
   sensies
       - Continue picc for now given low suspicion for line infection,
   difficult access with GVHD, and clinical improvement
   # Hypoxemia - [**12-30**] pna (impressive infiltrate on CT chest)mucus plugging
   overall is improving with stable wbc ct and af but w/ mild increase in
   O2 requirements since yesterday
    did not have evidence of effusion on ct [**4-8**], but ? effusion on cxr
   today (poor film and very rotated)
   - repeat cxr w/ lateral decub to eval effusions, if evidence would dx
   tap for concern of empyema, if new temps or wbc ct consider repeat ct
   chest to reval
   -abx as above X 10 day course
   -Nebs
   -mucomyst
   -chest pt
   -Supp O2
wean as tolerated
   # Leukocytosis
now normalized on antibx
   # Recent PE
   resume heparin gtt
   # Immunosuppression
   cont FK506 and cellcept.
 check daily FK506 levels
   continue prednisone, Gleevec.
   # Tachycardia - sinus, treating underlying infection/exacerbating
   factors
   Improving w/IVF and now is at baseline
   ICU Care
   Nutrition:
   Peripheral Parenteral Nutrition - [**2170-4-9**] 06:01 PM 41.[**Telephone/Fax (3) 1761**]
   mL/hour
   Comments:
   Glycemic Control:
   Lines:
   PICC Line - [**2170-4-7**] 05:48 PM
   20 Gauge - [**2170-4-7**] 05:49 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :stable for transfer to floor
   Total time spent: 35 minutes

2170-04-11 10:39:00 Physician Attending Progress Note
Chief Complaint: strep pneumo bacteremia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   33 yo M w/diffuse large B cell lymphoma s/p allo-BMT c/b severe GVHD of
   skin/mucosa presented with fever, hypotension, tachycardia from strep
   pneumo pna and bacteremia
   24 Hour Events:
   fk506 level elevated 14.7
   interval development of effusion on L
   uneventful evening
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2170-4-8**] 08:00 PM
   Ciprofloxacin - [**2170-4-8**] 10:15 PM
   Vancomycin - [**2170-4-9**] 08:00 AM
   Cefipime - [**2170-4-9**] 02:00 PM
   Nafcillin - [**2170-4-11**] 04:00 AM
   Acyclovir - [**2170-4-11**] 06:23 AM
   Infusions:
   Heparin Sodium - 1,150 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2170-4-10**] 08:00 PM
   Morphine Sulfate - [**2170-4-10**] 10:20 PM
   Lorazepam (Ativan) - [**2170-4-10**] 11:00 PM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-4-11**] 10:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 35.6
C (96
   HR: 82 (82 - 136) bpm
   BP: 143/78(94) {113/73(82) - 146/98(104)} mmHg
   RR: 19 (13 - 34) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  2,322 mL
                                                                    957 mL
   PO:
                                                                     60 mL
             TF:
   IVF:
                                                                  1,227 mL
                                                                    459 mL
   Blood products:
   Total out:
                                                                  1,990 mL
                                                                  2,150 mL
   Urine:
                                                                  1,975 mL
                                                                  2,150 mL
   NG:
                                                                     15 mL
   Stool:
   Drains:
   Balance:
                                                                    332 mL
                                                                 -1,193 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///33/
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: r base, Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.2 g/dL
   335 K/uL
   152 mg/dL
   0.4 mg/dL
   33 mEq/L
   3.7 mEq/L
   10 mg/dL
   99 mEq/L
   137 mEq/L
   31.4 %
   6.8 K/uL
        [image002.jpg]
                             [**2170-4-7**]  06:36 PM
                             [**2170-4-7**]  09:05 PM
                             [**2170-4-8**]  01:15 AM
                             [**2170-4-9**]  03:39 AM
                             [**2170-4-10**]  03:49 AM
                             [**2170-4-11**]  03:24 AM
   WBC
   8.6
   13.6
   13.4
   11.8
   8.3
   6.8
   Hct
   21.1
   31.2
   31.7
   28.1
   28.9
   31.4
   Plt
   [**Telephone/Fax (3) 2703**]
   Cr
   0.3
   0.6
   0.5
   0.4
   0.4
   0.4
   TropT
   0.06
   Glucose
   83
   105
   108
   105
   131
   152
   Other labs: PT / PTT / INR:12.2/77.9/1.0, CK / CKMB /
   Troponin-T:237/4/0.06, ALT / AST:27/37, Alk Phos / T Bili:78/0.3,
   Differential-Neuts:86.0 %, Band:10.0 %, Lymph:0.0 %, Mono:0.0 %,
   Eos:0.0 %, Albumin:2.8 g/dL, LDH:388 IU/L, Ca++:8.3 mg/dL, Mg++:1.5
   mg/dL, PO4:3.6 mg/dL
   Fluid analysis / Other labs: FK506 level pending
   Imaging: CXR --no new film today
   accumulationm of l effusion, minimal fluid on R, RLL infiltrate
   Microbiology: no new data
   bl cx [**4-10**] pending
   sputum cx pending
   Assessment and Plan
   33 yo M w/diffuse large B cell lymphoma s/p allo-BMT c/b severe GVHD of
   skin/mucosa presented with fever, hypotension, tachycardia from strep
   pneumo pna and bacteremia
   # pneumo bacteremia/pna
   pna source given ct chest findings, w/ very low suspicion for line
   infection
   HR and BP normalized early in course with aggressive fluid resus
   Surveillance bld cxs  pending
   complete course 10 day course antibx
switched to nafcillin per sensies
   Continue picc for now given low suspicion for line infection, difficult
   access with GVHD, and clinical improvement
   # Hypoxemia - [**12-30**] pna (impressive infiltrate on CT chest)mucus plugging
   overall is improving with stable wbc ct and af but w/ mild increase in
   O2 requirements since yesterday
    did not have evidence of effusion on ct [**4-8**], but ? effusion on cxr
   today (poor film and very rotated)
   - repeat cxr w/ lateral decub to eval effusions, if evidence would dx
   tap for concern of empyema, if new temps or wbc ct consider repeat ct
   chest to reval
   -abx as above X 10 day course
   -Nebs
   -mucomyst
   -chest pt
   -Supp O2
wean as tolerated
   #Pulm effusions-
   new accumulation of L effusion though infiltrate on R, no fluid on
   intiail ct chest
   given af and normal wbc will hold on tap, unless pt spikes or change in
   stauts, fluid likely s2/2 third spacing from fluid resus in setting of
   initial shock/hypotension
   # Recent PE
   resume heparin gtt
   # Immunosuppression
   cont FK506 and cellcept.
   adjusting FK506 for elevated level
   continue prednisone, Gleevec.
   # Tachycardia - sinus, treating underlying infection/exacerbating
   factors
   Improving w/IVF and now is at baseline
   restart gentle BB oper home dose
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2170-4-10**] 06:10 PM 48 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2170-4-7**] 05:48 PM
   20 Gauge - [**2170-4-7**] 05:49 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 40 minutes

2170-04-12 11:17:00 Physician Attending Progress Note
Chief Complaint: strep pneumo bacteremia/pna
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   33 yo M w/diffuse large B cell lymphoma s/p allo-BMT c/b severe GVHD of
   skin/mucosa with resolving sepsis from strep pneumo and bacteremia and
   pna.
   24 Hour Events:
   called out to floor and awaiting bed on floor
   bb restarted
   antibx changed to ctx
   fk506 level 7.2 yesterday (changing to 0.5)
   uneventful overnight
   History obtained from Patient, HO
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2170-4-9**] 02:00 PM
   Nafcillin - [**2170-4-11**] 11:30 AM
   Ceftriaxone - [**2170-4-11**] 05:24 PM
   Acyclovir - [**2170-4-12**] 06:04 AM
   Infusions:
   Heparin Sodium - 1,300 units/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2170-4-11**] 10:30 PM
   Morphine Sulfate - [**2170-4-12**] 03:00 AM
   Heparin Sodium - [**2170-4-12**] 06:00 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-4-12**] 11:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.4
C (97.5
   HR: 98 (82 - 130) bpm
   BP: 117/80(87) {110/72(82) - 134/93(102)} mmHg
   RR: 23 (19 - 37) insp/min
   SpO2: 96% 3-4L
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  2,476 mL
                                                                  1,212 mL
   PO:
                                                                     90 mL
             TF:
   IVF:
                                                                  1,038 mL
                                                                    336 mL
   Blood products:
   Total out:
                                                                  5,135 mL
                                                                  2,100 mL
   Urine:
                                                                  4,995 mL
                                                                  2,100 mL
   NG:
                                                                     40 mL
   Stool:
                                                                    100 mL
   Drains:
   Balance:
                                                                 -2,659 mL
                                                                   -888 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///35/
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Lymphatic: No(t) Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), tachy
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   decreased/bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): X 3, Movement: Not assessed, No(t) Sedated,
   No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   9.1 g/dL
   335 K/uL
   130 mg/dL
   0.4 mg/dL
   35 mEq/L (33)
   3.5 mEq/L
   11 mg/dL
   97 mEq/L
   137 mEq/L
   30.1 %
   6.6 K/uL
        [image002.jpg]
                             [**2170-4-7**]  06:36 PM
                             [**2170-4-7**]  09:05 PM
                             [**2170-4-8**]  01:15 AM
                             [**2170-4-9**]  03:39 AM
                             [**2170-4-10**]  03:49 AM
                             [**2170-4-11**]  03:24 AM
                             [**2170-4-12**]  03:14 AM
   WBC
   8.6
   13.6
   13.4
   11.8
   8.3
   6.8
   6.6
   Hct
   21.1
   31.2
   31.7
   28.1
   28.9
   31.4
   30.1
   Plt
   [**Telephone/Fax (3) 2703**]
   335
   Cr
   0.3
   0.6
   0.5
   0.4
   0.4
   0.4
   0.4
   TropT
   0.06
   Glucose
   83
   105
   108
   105
   131
   152
   130
   Other labs: PT / PTT / INR:12.5/56.4/1.1, CK / CKMB /
   Troponin-T:237/4/0.06, ALT / AST:27/39, Alk Phos / T Bili:82/0.4,
   Differential-Neuts:86.0 %, Band:10.0 %, Lymph:0.0 %, Mono:0.0 %,
   Eos:0.0 %, Albumin:3.2 g/dL, LDH:447 IU/L (stable), Ca++:8.6 mg/dL,
   Mg++:1.6 mg/dL, PO4:3.1 mg/dL
   Imaging: no new imaging
   Microbiology: no new micro
   Assessment and Plan
   33 yo M w/diffuse large B cell lymphoma s/p allo-BMT c/b severe GVHD of
   skin/mucosa with resolving sepsis from strep pneumo and bacteremia and
   pna
   # Hypoxemia - [**12-30**] resolving pna (impressive infiltrate on CT chest),
   mucus plugging, and effusions
   improving with stable wbc ct and af
   weaning O2 as tolerated, still requires NC with exertion 9desats to low
   90
        #  strep pneumo bacteremia/pna
   Clmnically improving
   complete 10 day course antibx
> switched to ctx
   Continue picc for now given low suspicion for line infection, difficult
   access with GVHD, and clinical improvement
   OOB to chair
   Chest PT
   Mucomyst/nebs
        #Pulm effusions
   new accumulation of L effusion, w/o effusion on initial ct
   clinically improvng- af and normal wbc will hold on tap, unless pt
   spikes or change in status, fluid likely s2/2 third spacing from fluid
   resus in setting of initial shock/hypotension, autodiuresing
   # recent PE
   Continue heparin gtt
   # Immunosuppression/GVHD
   cont FK506 and cellcept, adjusting FK506 dose for elevated level
   bmt, follow level
   continue prednisone, Gleevec.
   # Tachycardia - sinus, treating underlying infection/exacerbating
   factors
   at baseline
   tolerating BB
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2170-4-11**] 06:06 PM 81 mL/hour
   Comments: po diet
   Glycemic Control:
   Lines:
   PICC Line - [**2170-4-7**] 05:48 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor/continue PT
   Total time spent: 35 minutes

2170-04-13 10:54:00 Physician Attending Progress Note
Chief Complaint: strep pneumo bacteremia/pna, hypoxia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   33 yo M w/diffuse large B cell lymphoma s/p allo-BMT c/b severe GVHD of
   skin/mucosa with resolving sepsis from strep pneumo bacteremia and pna
   24 Hour Events:
   uneventful overnight, subjectively improved breathing, awaits floor bed
   History obtained from Patient, ho
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Nafcillin - [**2170-4-11**] 11:30 AM
   Ceftriaxone - [**2170-4-12**] 07:00 PM
   Acyclovir - [**2170-4-13**] 05:40 AM
   Infusions:
   Heparin Sodium - 1,450 units/hour
   Other ICU medications:
   Heparin Sodium - [**2170-4-12**] 03:40 PM
   Pantoprazole (Protonix) - [**2170-4-12**] 08:00 PM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-4-13**] 10:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.4
C (99.4
   HR: 119 (93 - 146) bpm
   BP: 103/65(74) {103/61(70) - 136/108(112)} mmHg
   RR: 21 (20 - 35) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 68 Inch
             Total In:
                                                                  3,328 mL
                                                                  1,431 mL
   PO:
                                                                    400 mL
             TF:
   IVF:
                                                                    857 mL
                                                                    317 mL
   Blood products:
   Total out:
                                                                  3,650 mL
                                                                  2,475 mL
   Urine:
                                                                  3,650 mL
                                                                  2,475 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -322 mL
                                                                 -1,044 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///29/
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : imporving, Diminished:
   r and l base)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): X 3, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   9.4 g/dL
   379 K/uL
   132 mg/dL
   0.4 mg/dL
   29 mEq/L
   4.7 mEq/L
   16 mg/dL
   97 mEq/L
   133 mEq/L
   31.1 %
   8.2 K/uL
        [image002.jpg]
                             [**2170-4-7**]  06:36 PM
                             [**2170-4-7**]  09:05 PM
                             [**2170-4-8**]  01:15 AM
                             [**2170-4-9**]  03:39 AM
                             [**2170-4-10**]  03:49 AM
                             [**2170-4-11**]  03:24 AM
                             [**2170-4-12**]  03:14 AM
                             [**2170-4-13**]  03:59 AM
   WBC
   8.6
   13.6
   13.4
   11.8
   8.3
   6.8
   6.6
   8.2
   Hct
   21.1
   31.2
   31.7
   28.1
   28.9
   31.4
   30.1
   31.1
   Plt
   [**Telephone/Fax (3) 2762**]79
   Cr
   0.3
   0.6
   0.5
   0.4
   0.4
   0.4
   0.4
   0.4
   TropT
   0.06
   Glucose
   83
   105
   108
   105
   131
   152
   130
   132
   Other labs: PT / PTT / INR:12.8/79.2/1.1, CK / CKMB /
   Troponin-T:237/4/0.06, ALT / AST:29/36, Alk Phos / T Bili:87/0.8,
   Differential-Neuts:86.0 %, Band:10.0 %, Lymph:0.0 %, Mono:0.0 %,
   Eos:0.0 %, Albumin:3.2 g/dL, LDH:507 IU/L, Ca++:8.8 mg/dL, Mg++:1.7
   mg/dL, PO4:2.9 mg/dL
   Imaging: no new film
   Microbiology: no new data
   Assessment and Plan
   33 yo M w/diffuse large B cell lymphoma s/p allo-BMT c/b severe GVHD of
   skin/mucosa with resolving sepsis from strep pneumo bacteremia and pna
   # Hypoxemia - [**12-30**] resolving pna (impressive infiltrate on CT chest),
   mucus plugging, and effusions
   Subjectively imrpoving
   Remains with stable wbc ct, remains af
   Weaning O2 now on 2 L NC
        #  strep pneumo bacteremia/ RLL pna
   complete 10 day course antibx
> switched to ctx  --day 7
   continue OOB to chair
   Chest PT
   Mucomyst/nebs
        #Pulm effusions
   new accumulation of L effusion, w/o effusion on initial ct
   autodiuresing, no indication for tap given continued improvement
     # ? of GVHD in lung given persistent
? bx would be more specific to
   evaluate for this, over all improving, d/w bmt need for repeat ct chest
   # recent PE
   Resume home lovenox
   # Immunosuppression/GVHD
   cont FK506 and cellcept, adjusting FK506 dose for elevated level
   bmt, follow
   continue prednisone, Gleevec.
   # Tachycardia - sinus, treating underlying infection/exacerbating
   factors
   at baseline
   beta blocker
   ICU Care
   Nutrition:
   TPN without Lipids - [**2170-4-12**] 06:31 PM 104 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2170-4-7**] 05:48 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor when bed available
   Total time spent: 35 minutes